US08058447B2
Isopropyl 5-cyano-6-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-2-(trifluoromethyl)-1,4-dihydropyridine-3-carboxylate
100 mg (0.53 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 105 mg (0.53 mmol) of isopropyl 4,4,4-trifluoro-3-oxobutanoate, 43.6 mg (0.53 mmol) of 3-aminocrotononitrile and 46 μl (0.79 mmol) of acetic acid in 5 ml of 2-propanol and heated under reflux under argon for 4 h. The solvent is removed in vacuo, and the residue is purified by preparative HPLC. The main product obtained in this way is stirred under reflux in acetic acid overnight. The solution is concentrated and the residue is recrystallized from diethyl ether. 75 mg (33% of theory) of the title compound are obtained as a white solid.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.53 mmol, 100 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | isopropyl 4,4,4-trifluoro-3-oxobutanoate | 0.53 mmol, 105 mg | FC(C(CC(=O)OC(C)C)=O)(F)F | C7H9F3O3
reactant | 3-aminocrotononitrile | 0.53 mmol, 43.6 mg | N\C(=C/C#N)\C | C4H6N2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.79 mmol, 46 μl | C(C)(=O)O | C2H4O2
product | Isopropyl 5-cyano-6-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-2-(trifluoromethyl)-1,4-dihydropyridine-3-carboxylate | C(#N)C=1C(C(=C(NC1C)C(F)(F)F)C(=O)OC(C)C)C=1C=CC=C2C(C=C(OC12)C)=O | C22H19F3N2O4
